US04056540
A. trans-4-Phenyl-N-(3-dimethylaminopropyl)-1,3-benzodioxan-2-carboxamide hydrochloride (BL-5028A)
trans-6-Chloro-4-phenyl-N-(3-dimethylaminopropyl)1,3-benzodioxan-2-carboxamide hydrochloride (1.0 g., 2.43 mmole) was mixed with triethylamine (0.526 g., 5.2 mmole) and 30% Pd on Celite catalyst (0.3 g.,) in 200 ml of absolute EtOH and hydrogenated in a Parr apparatus for 30 mins. at an initial H2 pressure of 48 psi. The uptake was 13 lbs. of H2 and after catalyst removal, the filtrate was stripped of solvent under reduced pressure. The residue was partitioned between CH2Cl2 and 2% Na2CO3 solution. After extraction of the aqueous with a second portion of CH2Cl2, the organics were combined, washed with H2O, dried (MgSO4) and stripped to a syrup under reduced pressure. The .HCL salt was formed in CH2Cl2 in the usual manner, and after solvent removal, crystallization was effected by trituration in hot EtOAc, followed by cooling (0.66 g., 72%). Recrystallization from EtOAc-abs EtOH gave analytical material (mp 165°-170° d).

reactant | trans-6-Chloro-4-phenyl-N-(3-dimethylaminopropyl)1,3-benzodioxan-2-carboxamide hydrochloride | 2.43 mmole, 1.0 g | Cl.ClC1=CC2=C(O[C@@H](O[C@H]2C2=CC=CC=C2)C(=O)NCCCN(C)C)C=C1
reactant | triethylamine | 5.2 mmole, 0.526 g | C(C)N(CC)CC | C6H15N
solvent | EtOH | 200 ml | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | trans-4-Phenyl-N-(3-dimethylaminopropyl)-1,3-benzodioxan-2-carboxamide hydrochloride | Cl.C1(=CC=CC=C1)[C@@H]1O[C@H](OC2=C1C=CC=C2)C(=O)NCCCN(C)C | InChI=1S/C20H24N2O3.ClH/c1-22(2)14-8-13-21-19(23)20-24-17-12-7-6-11-16(17)18(25-20)15-9-4-3-5-10-15;/h3-7,9-12,18,20H,8,13-14H2,1-2H3,(H,21,23);1H/t18-,20-;/m0./s1
